US05212287
Preparation of N-Carbobenzoxy-β-Benzyl-L-Aspartyl-L-Proline
L-Proline (2.8 Kg) and N-carbobenzoxy-β-benzyl-L-aspartic acid p-nitrophenyl ester (10.5 Kg) are dissolved in a mixture of dimethylformamide (25-30 L) and distilled water (9-13 L). The pH of the solution is adjusted to 7.5-8.0 and maintained in this range by addition of diisopropylethylamine. The mixture is stirred at 20°-30° C. until the reaction is complete. The solution is diluted with ethyl acetate (45-55 L) and extracted with dilute hydrochloric acid (15-20 L). The aqueous layer is back extracted with ethyl acetate (8-12 L). The combined organic layers are washed three times with dilute hydrochloric acid (10-15 L). The organic layer is extracted with dilute sodium bicarbonate. Ethyl acetate (40-60 L) is added to the aqueous layer and the pH is adjusted to about 3.0 by addition of dilute hydrochloric acid. The organic layer is washed two times with dilute hydrochloric acid (10-30 L) and concentrated in vacuo below 55° C. to 20-30 L.

reactant | L-Proline | 2.8 Kg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-carbobenzoxy-β-benzyl-L-aspartic acid p-nitrophenyl ester | 10.5 Kg | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1)=O | C25H22N2O8
solvent | dimethylformamide | 25-30 L | CN(C=O)C | C3H7NO
product | N-Carbobenzoxy-β-Benzyl-L-Aspartyl-L-Proline | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C(O)=O)CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C24H26N2O7
